*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_SVOD_RELOSC_lpe.spi
#else
.include ../../../work/xsch/LELO_SVOD_RELOSC.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-5 sparse

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p



*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD VSS    dc {vdd}

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
  
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

noise v(xdut.net1) VDD dec 100 1k 100MEG



write
quit


.endc

.end
