*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/PVT_DELAY_TB_lpe.spi
#else
.include ../../../work/xsch/PVT_DELAY_TB.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-5 autostop

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p



*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD VSS    pwl 0 0 1m {vdd}

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all
.OPTIONS SAVECURRENTS

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------

.ic v(xdut.bias_ref)=0.46 
.ic v(xdut.vgm2)=0.33


.measure tran t5 WHEN V(xdut.OSC)=0.7 FALL=50
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

tran 1u 100m



write
quit


.endc

.end
