*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/VCO_TEST_lpe.spi
#else
.include ../../../work/xsch/VCO_TEST.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD  VSS   dc 0.8
VC   VC   VSS   dc 0

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all
.save i(vdd)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit


tran 1n 100u
write
quit


.endc

.end
